US08686024B2
(2) Synthesis of 1-benzyl-5-methoxy-3-methylindole
A solution of 1-[N-benzyl-N-(4-methoxyphenyl)amino]propan-2-on (863 mg, 3.20 mmol) in 9.6 mL of ethanol was added zinc chloride (1.3 g, 9.6 mmol) at room temperature. After the reaction mixture was stirred over night, zinc chloride (1.3 g, 9.6 mmol) was added with additional stirring for 10 h. After the reaction mixture was concentrated in vacuo, the residue was diluted with ethyl acetate, and washed with water, 1 M HCl, saturated NaHCO3 aqueous solution and brine, successively, and dried over MgSO4. After filtration, the filtrate was concentrated in vacuo, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=95/5 to 80/20) to obtain the title compound (503 mg, 62%).

reactant | 1-[N-benzyl-N-(4-methoxyphenyl)amino]propan-2-on | 3.20 mmol, 863 mg | C(C1=CC=CC=C1)N(C1=CC=C(C=C1)OC)CC(C)=O | C17H19NO2
solvent | ethanol | 9.6 mL | C(C)O | C2H6O
catalyst | zinc chloride | 9.6 mmol, 1.3 g | [Cl-].[Zn+2].[Cl-]
catalyst | zinc chloride | 9.6 mmol, 1.3 g | [Cl-].[Zn+2].[Cl-]
product | 1-benzyl-5-methoxy-3-methylindole | 503 mg, 62% | C(C1=CC=CC=C1)N1C=C(C2=CC(=CC=C12)OC)C | C17H17NO
